US05556860
Synthesis of 3-(piperidin-4-yl)-4-phenyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine
In similar way as in Preparation Example 89, the title compound was synthesized from 3-benzoyl-2-trichloroacetylaminopyridine and 4-amino-1-benzylpiperidine.

reactant | 3-benzoyl-2-trichloroacetylaminopyridine | C(C1=CC=CC=C1)(=O)C=1C(=NC=CC1)NC(C(Cl)(Cl)Cl)=O | C14H9Cl3N2O2
reactant | 4-amino-1-benzylpiperidine | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
product | 3-(piperidin-4-yl)-4-phenyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine | N1CCC(CC1)N1C(NC2=C(C1C1=CC=CC=C1)C=CC=N2)=O | C18H20N4O
